US08389527B2
To 6-chloro-N-(4-methoxybenzyl)-N-phenylimidazo[1,2-b]pyridazin-8-amine (1.00 g, 2.754 mmol) in THF (20 mL) at −78° C. was added n-BuLi (1.32 mL, 3.305 mmol, 2.5 M in hexanes). After 30 minutes, a stream of CO2 gas was introduced into the reaction mixture for 20 minutes at −78° C. and at room temperature for additional 20 minutes. The reaction mixture was quenched with H2O (25 mL) and extracted with DCM (3×100 mL). The combined organic layer was washed with saturated NaHCO3 (100 mL) and water (100 mL), dried Na2SO4, filtered and concentrated in vacuo to give 6-chloro-8-((4-methoxybenzyl)(phenyl)amino)imidazo[1,2-b]pyridazine-3-carboxylic acid (0.629 g, 56% yield)) as a yellow solid. LC/MS (Phenomenex Luna 5 micron C18 4.6×30 mm, 0 to 100 B in 2 min with 1 min hold time, Flow rate=5 mL/min, detection at 254 nm, Solvent A: 10% methanol/90% water/0.1% TFA; Solvent B: 10% water/90% methanol/0.1% TFA). Rt=3.736 minutes. [M+H]=409.02.

reactant | 6-chloro-N-(4-methoxybenzyl)-N-phenylimidazo[1,2-b]pyridazin-8-amine | 2.754 mmol, 1.00 g | ClC=1C=C(C=2N(N1)C=CN2)N(C2=CC=CC=C2)CC2=CC=C(C=C2)OC | C20H17ClN4O
reactant | n-BuLi | 3.305 mmol, 2.5 M, 1.32 mL | [Li]CCCC
reactant | CO2 | C(=O)=O | CO2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 6-chloro-8-((4-methoxybenzyl)(phenyl)amino)imidazo[1,2-b]pyridazine-3-carboxylic acid | 0.629 g, 56% yield | ClC=1C=C(C=2N(N1)C(=CN2)C(=O)O)N(C2=CC=CC=C2)CC2=CC=C(C=C2)OC | C21H17ClN4O3
